US07153878B2
Sodium Hydride, 60% mineral oil (1.9 g, 46.3 mmol) and dimethylformamide (50 mL) are stirred at room tmperature and 4-(trifluoromethyl)benzoic acid (8.0 g, 42.1 mmol) is added. To the resulting slurry is added 2-chloro-4-methyl-3-oxo-pentanoic acid ethyl ester (8.5 g, 44.2 mmol) and the resulting mixture is heated to 90° C. for 3 hr. The reaction mixture is cooled, diluted with water (100 mL), and product is extracted with ethyl acetate (100 mL). The organic layer is washed with water (three 100 mL portions) and brine (100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated to constant weight to give 4-trifluoromethyl-benzoic acid 1-ethoxycarbonyl-3-methyl-2-oxo-butyl ester as a colorless oil, 14.6 g, 100%. The resulting oil is stirred in a mixture of acetic acid (100 mL) and ammonium acetate (9.75 g, 126.5 mmol) at reflux 1 hr, then 20 hr at room temperature. The solvent is removed in vacuo and the residue is partioned between aqueous saturated sodium hydrogen carbonate (100 mL) and ethyl acetate (100 mL. The layers are separated, the aqueous layer is washed with ethyl acetate (100 mL). The organic extracts are combined, washed with water and brine (100 mL each) dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue is purified over silica eluting with 9:1 hexanes:ethyl acetate to afford 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid ethyl ester as a white solid, 8.1 g, 60%. MS (M++1) 328.

reactant | Sodium Hydride | [H-].[Na+]
reactant | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
reactant | 4-(trifluoromethyl)benzoic acid | 42.1 mmol, 8.0 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | 2-chloro-4-methyl-3-oxo-pentanoic acid ethyl ester | 44.2 mmol, 8.5 g | C(C)OC(C(C(C(C)C)=O)Cl)=O | C8H13ClO3
solvent | water | 100 mL | O | H2O
product | 4-trifluoromethyl-benzoic acid 1-ethoxycarbonyl-3-methyl-2-oxo-butyl ester | C(C)OC(=O)C(C(C(C)C)=O)OC(C1=CC=C(C=C1)C(F)(F)F)=O | C16H17F3O5
